US04804665
8-Benzyloxycarbonyl-2-cyanomethyloxy-2,8-diazaspiro[4,5]decane-1,3-dione
To a solution of 8-benzyloxycarbonyl-2-hydroxy-2,8-diazaspiro[4,5]decane-1,3-dione (0.96 g) in dimethylformamide (5 ml) was added 132 mg of sodium hydride (60% in oil), and the mixture was stirred for one hour at room temperature. To the reaction mixture was added 210 μl of chloroacetonitrile, and the mixture was stirred for 2 hours at room temperature. The reaction mixture was treated in the same manner as in Example 40 to obtain 1.0 g of a non-crystalline solid.

reactant | 8-benzyloxycarbonyl-2-hydroxy-2,8-diazaspiro[4,5]decane-1,3-dione | 0.96 g | C(C1=CC=CC=C1)OC(=O)N1CCC2(CC(N(C2=O)O)=O)CC1 | C16H18N2O5
reactant | sodium hydride | 132 mg | [H-].[Na+]
reactant | chloroacetonitrile | 210 μl | ClCC#N | C2H2ClN
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 8-Benzyloxycarbonyl-2-cyanomethyloxy-2,8-diazaspiro[4,5]decane-1,3-dione | 1.0 g | C(C1=CC=CC=C1)OC(=O)N1CCC2(CC(N(C2=O)OCC#N)=O)CC1 | C18H19N3O5
